US07375115B2
2-(1-Benzylpiperidin-4-ylamino)-5-methylpyridine
To 2-bromo-4-methylpyridine (15.5 g) was added 4-amino-1-benzylpiperidine (68.5 g). The resulting solution was stirred at 180° C. for 9 hours and then at 150° C. for 6 hours. Ethyl acetate and water were then added to the solution followed by addition of saturated aqueous sodium bicarbonate solution. After separating liquid layers, the organic layer was washed with water and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then, concentrated under reduced pressure. The resulting residue was purified by chromatography [silica gel, ethyl acetate-methanol-aqueous ammonia (90:10:0.1)] to give the title compound (11.5 g).

reactant | 2-bromo-4-methylpyridine | 15.5 g | BrC1=NC=CC(=C1)C | C6H6BrN
reactant | 4-amino-1-benzylpiperidine | 68.5 g | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 2-(1-Benzylpiperidin-4-ylamino)-5-methylpyridine | 11.5 g | C(C1=CC=CC=C1)N1CCC(CC1)NC1=NC=C(C=C1)C | C18H23N3
